US08957070B2
N-[2-(4,5-Dimethyl-1,3-thiazol-2-yl)-1H-indol-7-yl]thiophene-2-sulfonamide
To a mixture of 2-(4,5-dimethyl-1,3-thiazol-2-yl)-1H-indole-7-amine (0.10 g) and pyridine (8 mL) was added thiophene-2-sulfonyl chloride (0.090 g) at 4° C., and the mixture was stirred at room temperature for 15 hr. The reaction solution was concentrated. The obtained residue was diluted with ethyl acetate, washed with aqueous citric acid solution and saturated brine, dried over-anhydrous magnesium sulfate, and concentrated under reduced pressure. The obtained residue was subjected to silica gel column chromatography (ethyl acetate) to give the title compound (142 mg, yield 89%) as pale-purple crystals. melting point 210-211° C.

reactant | 2-(4,5-dimethyl-1,3-thiazol-2-yl)-1H-indole-7-amine | 0.10 g | CC=1N=C(SC1C)C=1NC2=C(C=CC=C2C1)N | C13H13N3S
reactant | thiophene-2-sulfonyl chloride | 0.090 g | S1C(=CC=C1)S(=O)(=O)Cl | C4H3ClO2S2
solvent | pyridine | 8 mL | N1=CC=CC=C1 | C5H5N
product | N-[2-(4,5-Dimethyl-1,3-thiazol-2-yl)-1H-indol-7-yl]thiophene-2-sulfonamide | 142 mg, yield 89% | CC=1N=C(SC1C)C=1NC2=C(C=CC=C2C1)NS(=O)(=O)C=1SC=CC1 | C17H15N3O2S3
